US05605899
4.-(3-Methylbutylamino)-3-nitroquinoline
Using the general method of Example 41, 4-hydroxy-3-nitroquinoline (19 g, 0.10 mole) was chlorinated and then reacted with isoamylamine (10.5 g, 0.12 mole) to provide the crude product as a yellow solid. This solid was recrystallized from hexane to provide the desired product as a solid, m.p. 99°-100° C. Analysis: Calculated: % C, 64.8; % H, 6.6; % N, 16.2; Found: % C, 64.8; % H, 6.6; % N, 16.1.

reactant | 4-hydroxy-3-nitroquinoline | 0.10 mole, 19 g | OC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H6N2O3
reactant | isoamylamine | 0.12 mole, 10.5 g | C(CC(C)C)N | C5H13N
product | (3-Methylbutylamino)-3-nitroquinoline | CC(CCNC1=NC2=CC=CC=C2C=C1[N+](=O)[O-])C | C14H17N3O2
